US09260414B2
(2S,5R)-4-[5-(4-Bromo-3-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 4-bromo-3-trifluoromethoxy-phenylamine (190 mg, 0.74 mmol) and N,N-diisopropylethylamine (0.65 mL, 3.73 mmol; in N,N-dimethylacetamide (3 mL) was added a solution of (2S,5R)-4-(5-carboxy-pyridin-2-yl)-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester TFA (330 mg, 0.74 mmol; Preparation 26) and HCTU (401 mg, 0.97 mmol) in N,N-dimethylacetamide (3 mL). The reaction mixture was heated at 50° C. overnight. The reaction mixture was concentrated by rotary evaporation, extracted with ethyl acetate/sat. sodium carbonate, dried over sodium sulfate, filtered, concentrated and purified by silica gel chromatography (0-50% ethyl acetate:hexanes) to provide the title compound (155 mg, yield 36%). (m/z): [M+H]+ calcd for C24H28BrF3N4O4 573.12, 575.12. found 575.5.

reactant | 4-bromo-3-trifluoromethoxy-phenylamine | 0.74 mmol, 190 mg | BrC1=C(C=C(C=C1)N)OC(F)(F)F | C7H5BrF3NO
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (2S,5R)-4-(5-carboxy-pyridin-2-yl)-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester TFA | 0.74 mmol, 330 mg | OC(=O)C(F)(F)F.C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)C1=NC=C(C=C1)C(=O)O)C
reactant | HCTU | 0.97 mmol, 401 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | (2S,5R)-4-[5-(4-Bromo-3-trifluoromethoxy-phenylcarbamoyl)-pyridin-2-yl]-2,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 155 mg, yield 36% | C(C)(C)(C)OC(=O)N1[C@H](CN([C@@H](C1)C)C1=NC=C(C=C1)C(NC1=CC(=C(C=C1)Br)OC(F)(F)F)=O)C | C24H28BrF3N4O4
